US07381737B2
A mixture of (E)-4-((1-(3,5-dichlorophenyl)-3-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)benzonitrile (10.0 g, 26.9 mmol), glycine (5.06 g, 67.4 mmol), hexamethylenetetramine (2.82 g, 20.1 mmol) in 50 mL N-methylpyrrolidinone and 25 mL of toluene under nitrogen was heated to 138° C. for approximately 12 h. Next, 25 mL toluene and 25 mL H2O were added. The aqueous and nonaqueous layers were split, and the aqueous layer was washed with 25 mL of toluene, and the nonaqueous layers were combined to form a nonaqueous mixture. The nonaqueous mixture was heated to 45-50° C. and ethylene diamine (7.0 mL) was added. The nonaqueous mixture was stirred for 3 hours and then cooled to room temperature. Next, 50 mL H2O was added, followed by the addition of 10 mL brine. The next addition was 25 mL toluene, which was followed by the addition of 125 mL CH2Cl2. The bottom layer of the mixture was removed through a filter. Next, (+)-Di-p-toluoyl-D-tartaric acid (2.59 g, 6.7 mmol) was added and the mixture was stirred for 18 h to form a slurry. Slowly 40 mL of MTBE was added to the slurry. A wash solution containing 7 mL of MTBE and 11 mL of CH2Cl2 was prepared. Filter paper was wetted with 1 mL of the wash solution. The slurry was filtered and then the filtered to form a cake. The filter, the wash reaction flask, and the cake were washed with the remaining 16 mL of the wash solution. Next, the cake was washed with 10 mL MTBE. 4-[(5S, 9R)-3-(3,5-Dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile semi (+)-DTTA salt (4.0 g, 20% yield) was obtained as a white solid (98.7% HPLC AP and 98.3% ee).

reactant | (E)-4-((1-(3,5-dichlorophenyl)-3-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)benzonitrile | 26.9 mmol, 10.0 g | ClC=1C=C(C=C(C1)Cl)N1C(N(\C(\C1=O)=C\C1=CC=C(C#N)C=C1)C)=O | C18H11Cl2N3O2
reactant | glycine | 67.4 mmol, 5.06 g | NCC(=O)O | C2H5NO2
reactant | hexamethylenetetramine | 20.1 mmol, 2.82 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ethylene diamine | 7.0 mL | C(CN)N | C2H8N2
reactant | (+)-Di-p-toluoyl-D-tartaric acid | 6.7 mmol, 2.59 g | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
solvent | N-methylpyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 10 mL | [Cl-].[Na+].O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 11 mL | C(Cl)Cl | CH2Cl2
solvent | MTBE | 7 mL | CC(C)(C)OC | C5H12O
solvent | MTBE | 40 mL | CC(C)(C)OC | C5H12O
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
solvent | H2O | 25 mL | O | H2O
product | 4-[(5S, 9R)-3-(3,5-Dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile | 4.0 g, 20% yield | ClC=1C=C(C=C(C1)Cl)N1C(N([C@]2(C1=O)CNC[C@H]2C2=CC=C(C#N)C=C2)C)=O | C20H16Cl2N4O2
